US08912188B2
To a solution of 6-bromo-2-methyl-1H-indole (2.0 g, 9.52 mmol) in dry tetrahydrofuran (100 mL) was added sodium hydride (381 mg, 9.53 mmol) with ice-cooling. After stirring for about 30 min, a solution of n-BuLi (15 mL, 2.5 M solution in hexane) was added dropwise with stirring at −78° C. under nitrogen. It was warmed slowly to −40° C. during 45 min and stirred at this temperature for another 30 min. The mixture was cooled again below −78° C. followed by dropwise addition of 4,4,5,5-tetramethyl-2-(propan-2-yloxy)-1,3,2-dioxaborolane (3.54 g, 19.03 mmol). After warming to room temperature, the mixture was quenched with NH4Cl (aq) and extracted with ethyl acetate (3×80 mL). The combined organic layers were dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure to give the residue, which was purified by silica gel column chromatography (2% ethyl acetate in petroleum ether) to afford 2-methyl-6-(tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole (1.2 g, 49%).

reactant | 6-bromo-2-methyl-1H-indole | 9.52 mmol, 2.0 g | BrC1=CC=C2C=C(NC2=C1)C | C9H8BrN
reactant | sodium hydride | 9.53 mmol, 381 mg | [H-].[Na+]
reactant | n-BuLi | 2.5 M, 15 mL | [Li]CCCC
reactant | 4,4,5,5-tetramethyl-2-(propan-2-yloxy)-1,3,2-dioxaborolane | 19.03 mmol, 3.54 g | CC1(OB(OC1(C)C)OC(C)C)C | C9H19BO3
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 2-methyl-6-(tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole | 1.2 g, 49% | CC=1NC2=CC(=CC=C2C1)B1OC(C(O1)(C)C)(C)C | C15H20BNO2
